US07572820B2
C. 2-Methyl-4-(trifluoromethyl)-1-({3-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-5-yl}methyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 37 using [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid and N-hydroxy-3-(trifluoromethyl)benzenecarboximidamide: 1H NMR (400 MHz, CDCl3) δ 8.28 (s, 1H), 8.20 (d, J=7.8 Hz, 1H), 7.77 (d, J=7.8 Hz, 1H), 7.60 (m, 3H), 6.69 (s, 1H), 5.60 (s, 2H), 2.65 (s, 3H); MS (ES) m/z 473 (M+Na).

reactant | [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)O)C)C(F)(F)F | C13H9F3N2O2
reactant | N-hydroxy-3-(trifluoromethyl)benzenecarboximidamide | ONC(=N)C1=CC(=CC=C1)C(F)(F)F | C8H7F3N2O
product | 2-Methyl-4-(trifluoromethyl)-1-({3-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-5-yl}methyl)-1H-indole-5-carbonitrile | CC=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1=NC(=NO1)C1=CC(=CC=C1)C(F)(F)F | C21H12F6N4O
